US08293768B2
Synthesis of ethyl 4-methyl-2-(3-((3-methyl-5-phenylisoxazol-4-yl)methyl)-2-oxoimidazolidin-1-yl)thiazole-5-carboxylate
Following the procedure as described in Example 13, making variations as required to replace 4-(trifluoromethyl)benzyl bromide with 4-(bromomethyl)-3-methyl-5-phenylisoxazole to react with ethyl 4-methyl-2-(2-oxoimidazolidin-1-yl)thiazole-5-carboxylate, the title compound was obtained as a colorless solid in 87% yield: MS (ES+) m/z 427.2 (M+1).

reactant | 4-(trifluoromethyl)benzyl bromide | FC(C1=CC=C(CBr)C=C1)(F)F | C8H6BrF3
reactant | 4-(bromomethyl)-3-methyl-5-phenylisoxazole | BrCC=1C(=NOC1C1=CC=CC=C1)C | C11H10BrNO
reactant | ethyl 4-methyl-2-(2-oxoimidazolidin-1-yl)thiazole-5-carboxylate | CC=1N=C(SC1C(=O)OCC)N1C(NCC1)=O | C10H13N3O3S
product | ethyl 4-methyl-2-(3-((3-methyl-5-phenylisoxazol-4-yl)methyl)-2-oxoimidazolidin-1-yl)thiazole-5-carboxylate | 87% yield | CC=1N=C(SC1C(=O)OCC)N1C(N(CC1)CC=1C(=NOC1C1=CC=CC=C1)C)=O | C21H22N4O4S
